US04299832
(b) 7-(3-Bromopropyl)-8-ethyltheophylline
A mixture of 8-ethyl-7-(3-phenoxypropyl)theophylline (23.0 g; 0.067 M) and 48% aqueous hydrogen bromide (150 ml) was heated at reflux for 20 hours. The mixture was cooled and poured into dilute aqueous sodium hydroxide solution. The suspension was extracted with chloroform and the organic phase was washed with water, aqueous 10% sodium hydroxide solution and water and was dried (MgSO4), filtered and the filtrate was evaporated to dryness leaving a colourless solid. This solid was crystallised from ethanol to give the required compound as colourless prisms, (8.2 g) (82%) mp 119°-120°.

reactant | 8-ethyl-7-(3-phenoxypropyl)theophylline | 0.067 M, 23.0 g | C(C)C1=NC=2N(C(N(C)C(C2N1CCCOC1=CC=CC=C1)=O)=O)C | C18H22N4O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen bromide | 150 ml | Br | BrH
product | 7-(3-Bromopropyl)-8-ethyltheophylline | 8.2 g, 82% | BrCCCN1C(=NC=2N(C(N(C)C(C12)=O)=O)C)CC | C12H17BrN4O2
